US08871756B2
1-{4-[(3-Aminopropyl)amino]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-yl}ethanol
A mixture of 1-[4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-yl]ethanol (150 mg, 0.387 mmol) and propane-1,3-diamine (55 mg, 0.74 mmol) was heated with stirring in a sealed 0.5 mL of microwave process vial for 1.5 hours at 150° C. under microwave irradiation. The reaction mixture was purified by preparative HPLC and SPE to afford 70.2 mg of the desired product (yield was 41.2%). MS obsd. (ESI+) [(M+H)+] 441, 1H NMR (400 MHz, CD3OD) δ ppm 8.10-8.05 (m, 2 H), 7.86-7.80 (d, J=7.6 Hz, 1 H), 7.78-7.75 (m, 2 H), 7.72-7.62 (t, J=1.2 Hz, 1 H), 7.60-7.50 (t, J=1.2 Hz, 1 H), 5.94 (s, 1 H), 5.30 (s, 2 H), 4.98-4.92 (m, 1 H), 4.58-4.45 (m, 2 H), 3.78-3.70 (t, J=2.8 Hz, 2 H), 3.62-3.53 (t, J=4.4 Hz, 2 H), 3.10-3.02 (t, J=6.8 Hz, 2 H), 2.12-2.02 (m, 2 H), 1.50-1.40 (d, J=6.4 Hz, 3 H).

reactant | 1-[4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-yl]ethanol | 0.387 mmol, 150 mg | ClC1=CC(=NC2=CC=C(C=C12)C(C)O)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C20H19ClN2O3S
reactant | propane-1,3-diamine | 0.74 mmol, 55 mg | C(CCN)N | C3H10N2
product | 1-{4-[(3-Aminopropyl)amino]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-yl}ethanol | 70.2 mg, yield was 41.2% | NCCCNC1=CC(=NC2=CC=C(C=C12)C(C)O)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C23H28N4O3S
